US07939569B1
1-Bromomethyl-3-nitro-benzene (110 mg, 0.508 mmol), 2′,4′-difluoro-biphenyl-4-ol (110 mg, 0.533 mmol), and dried, finely ground potassium carbonate (74 mg, 0.533 mmol) in 10 mL acetone were refluxed under argon for 20 hrs. The reaction mixture was cooled, filtered, concentrated and re-dissolved in ethyl acetate. The ethyl acetate solution was washed with saturated NaHCO3, dried over MgSO4, filtered and evaporated in vacuo. The crude product was purified by flash chromatography with a gradient of 0-20% ethyl acetate in hexanes to yield 0.11 g (63%) of 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl. LC-MS (ES) calculated for C19H13F2NO3, 341.32; found m/z 340.3 [M−H]−.

reactant | 1-Bromomethyl-3-nitro-benzene | 0.508 mmol, 110 mg | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | 2′,4′-difluoro-biphenyl-4-ol | 0.533 mmol, 110 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)O | C12H8F2O
reactant | potassium carbonate | 0.533 mmol, 74 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl | 0.11 g, 63% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C19H13F2NO3
